Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Novocain / Lidocaine / 
Penicillins / Fentanyl / Morphine / Codeine / Motrin / aspirin / 
lisinopril
 
Attending: ___
 
___ Complaint:
left shoulder pain 
 
Major Surgical or Invasive Procedure:
Open Rotator cuff repair 

 
History of Present Illness:
painful left rotator cuff tear 
 
Past Medical History:
DM2, diagnosed in ___
right shoulder per MRI ___: intrasubstance tear of the 
supraspinatus tendon near the myotendinous junction", s/p R 
shoulder repair ___
taken from last DC summary of ___
"- seen by neurology for HA, sleep walking, possible long fiber 
neuropathy
- chronic lower back pain, lumbar radiculopathy on the L
- arthritis
- HTN
- HL
- HepC
- GERD
- Depression
- H/o viral labryinthitis with persistent vertigo
- H/o MRSA PNA 
- S/p bilateral carpal tunnel release ___
- Recurrent admissions for atypical chest pain with negative 
eval's

 
Social History:
___
Family History:
Sister with CAD in her ___ 
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: A&O x3  
Musculoskeletal Upper Extremity:  
* Incision healing well, steri strip removed on anterior aspect 
of shoulder, re-inforced dressing
* Scant serosanguinous drainage  
* Mild swelling in shoulder
* ___ strength and neurovascularly intact in left upper 
extremity

 
Pertinent Results:
none
 
Brief Hospital Course:
Patient was taken to OR on ___ for above procedure . She 
tolerated the procedure well and was taken to he PACU in stable 
condition

On POD 1 her pain was controlled with IV dilaudid and PO pain 
medicine. She did well overnight. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Amlodipine 10 mg PO DAILY 
3. Duloxetine 30 mg PO DAILY 
4. Fluticasone Propionate NASAL 1 SPRY NU BID:PRN allergy 
5. Gabapentin 800 mg PO TID 
6. Loratadine 10 mg PO DAILY 
7. Nitroglycerin SL 0.3 mg SL PRN cp 
8. Omeprazole 20 mg PO DAILY 
9. OxycoDONE (Immediate Release)  15 mg PO Q6H:PRN pain 
10. OxyCODONE SR (OxyconTIN) 60 mg PO Q12H 
11. Soma (carisoprodol) 350 mg oral QID PRN spasm 
12. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
heartburn 
13. Aspirin 81 mg PO DAILY 
14. Atorvastatin 40 mg PO DAILY 
15. Docusate Sodium 100 mg PO BID 
16. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H 
2. Amlodipine 10 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Duloxetine 30 mg PO DAILY 
5. Gabapentin 800 mg PO Q8H 
6. Lantus (insulin glargine) 8 units subcutaneous qhs 
7. Loratadine 10 mg PO DAILY 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Omeprazole 20 mg PO DAILY 
10. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
11. Sarna Lotion 1 Appl TP QID:PRN pruritus 
12. OxyCODONE SR (OxyconTIN) 40 mg PO Q12H 
13. Aspirin 81 mg PO DAILY 
14. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
heartburn 
15. Fluticasone Propionate NASAL 1 SPRY NU BID:PRN allergy 
16. Nitroglycerin SL 0.3 mg SL PRN cp 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left rotator cuff tear 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Wound Care:
•Remove dressing in 2 days.
•Keep steri-strips in place until they fall off or they are 
removed at your first post-operative visit.
•Showering in 3 days is fine; be sure to pat the incision dry 
afterwards.
•Do not scrub the area; just allow water/soap to wash over you.
•Do not bath or swim until approved by surgeon.

Ice:
•We recommend that you use the ice wrap/cryocuff on a 
consistent basis for the first 24–48 hours. This will help 
reduce post-operative swelling. After that, use as necessary. 
•Use a cloth between the ice and your skin.  DO NOT place ice 
directly on skin as this may cause ___ bite.  Do not leave ice 
wrap or cold therapy on for more than 20 minutes without 
checking your skin

Sling & Weight bearing status:
•With a Rotator Cuff Repair, you will be placed in a sling..
•You need to wear the sling for at least 4 weeks depending on 
the size/type of your repair (see above).  It should only be 
removed for showering and for your exercises.
•You should not bear weight with your arm or use your arm to 
lift anything until 3 months after surgery.

Physical Therapy: 
•Formal physical therapy will be ordered by your orthopedic 
surgeon in the form of a written prescription at your first 
follow up appt. You will also receive a therapy protocol form.  
Following a Rotator Cuff Repair, you should start formal 
physical therapy after your first post-operative appointment.  
The prescription and protocol should be given to a physical 
therapist of your choice so you can begin your program as 
directed under close supervision of your surgeon.
•You should call ahead of time and set up a ___ appointment for 
___ days after your first post-operative appointment. 

Pain Control:
Day of Surgery
•You have been given a regional anesthetic block prior to your 
operation.  This will wear off in the evening following your 
surgery.
•You may find it beneficial to sleep in a recliner or propped 
up on pillows for the first several days after surgery.

Narcotics
•You have been prescribed 1 narcotic pain medications.  It is 
important to stay ahead of your pain.
••You should take the pain medication  for pain not controlled 
by the Morphine and for pain once the Morphine is finished.   
You may call ___ for a refill as needed.  Please review 
a copy of our narcotics policy which is attached.
•Use the medication only as prescribed. Take it with food.
•Do not drive or use any type of heavy machinery, drink 
alcohol, make any life-changing or legal decisions (i.e. sign a 
will), or participate in activities that require a lot of 
physical skill.
•Take a stool softener, such as Colace, while taking the 
narcotic medication, because narcotics may cause constipation.

Non- Steroidal Anti-Inflammatory Medications:
•You may take an over the counter non-steroidal 
anti-inflammatory such as Motrin, Advil, Ibuprofen or Aleve for 
additional pain control for two weeks and then as needed.
•Take only if you do not have a contraindication to taking this 
medication (i.e. allergy to the medication, stomach ulcers or 
kidney problems).
•Take this medication with food, and try to stagger the times 
you take this medication with your pain medication.  This may 
help decrease the chance of stomach upset.

Driving:
•You may resume driving when approved by your orthopedic 
surgeon.  We do not recommend driving while wearing a sling.
.

 you should not begin pendulum exercises until instructed.  You 
should remain in your sling at all times.  It may only be 
removed to bend + straighten your elbow ___ times a day and for 
showering.

Return to Work:
•You may return to work as soon as you are comfortable.  This 
is dependent on your job type.  You will not be able to do any 
work with your arm for 6 weeks post-op.  You will not be able to 
return to work with any heavy lifting until ___ months post-op.  
Full recovery can take up to one year.  Return to work notes can 
be obtained from your orthopedic surgeon at your first post-op 
appointment.

Follow-up Appointment:
•Your first post-operative appointment will be scheduled ___ 
weeks following your surgical procedure. At this appointment 
your sutures/staples will be removed if needed.  If you do not 
have a post-operative appointment scheduled when you leave 
following surgery, please call ___ to make the 
appointment.  Your first appointment will be with a physician 
___ (PA) or nurse practitioner (___).

    
****Signs & Symptoms to Immediately Report****

•Call ___ and go to the nearest hospital if you are having 
chest pain or trouble breathing.

Call the office at: ___ to report any of the following:
•Persistent fever (101 or greater)
•Sudden increase in pain and swelling
•Wound redness or drainage
•Increased skin temperature around incision
•Deep calf pain and swelling

 
Followup Instructions:
___